US03935314
2-(5-Choro-2-benzimidazolyl) amino-2-imidazoline dihydrochloride (3.1g, 0.01 mol) in concentrated hydrochloric acid (25 ml) was treated with hydrogen peroxide (10%, 3.4ml) then heated to 80°C, maintained at this temperature for 15 minutes and then allowed to cool to room temperature. Recrystalisation of the resulting precipitate from water gave 2-(5,6-dichlorobenzimidazolyl) amino-2-imidazoline hydrochloride (0.46g, 15%) m.p. 279°-281°C.

reactant | 2-(5-Choro-2-benzimidazolyl) amino-2-imidazoline dihydrochloride | 0.01 mol, 3.1g | Cl.Cl.ClC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1
reactant | hydrogen peroxide | 3.4ml | OO | H2O2
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 2-(5,6-dichlorobenzimidazolyl) amino-2-imidazoline hydrochloride | 0.46g, 15% | Cl.ClC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1Cl | InChI=1S/C10H9Cl2N5.ClH/c11-5-3-7-8(4-6(5)12)16-10(15-7)17-9-13-1-2-14-9;/h3-4H,1-2H2,(H3,13,14,15,16,17);1H
